US07271153B2
To a solution of 3-cyano-2,6-dimethoxy-4-methylpyridine (0.11 g) in tetrahydrofuran (3 mL) was added diisobutylaluminum hydride (1.5 mol/L solution in toluene, 0.53 mL) at 0° C. The temperature was raised to room temperature, and the reaction solution was stirred for 5 days. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=9/1) to give 3-formyl-2,6-dimethoxy-4-methylpyridine (0.034 g). To a solution of 3-formyl-2,6-dimethoxy-4-methyl-pyridine (0.033 g) in tetrahydrofuran (1.2 mL) was added a Grignard reagent (0.5 mol/L solution in tetrahydrofuran, 0.72 mL) prepared from 4-bromoanisole, magnesium, a catalytic amount of iodine and tetrahydrofuran in the usual way, and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=5/1) to give 2,6-dimethoxy-4-methyl-pyridin-3-yl4-methoxyphenyl methanol (0.053 g). To a solution of the obtained 2,6-dimethoxy-4-methylpyridin-3-yl 4-methoxy-phenyl methanol (0.053 g) in dichloromethane (1.5 mL) was added a Dess-Martin reagent (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one)(0.093 g), and the mixture was stirred for 45 minutes at room temperature. To the reaction mixture were added saturated aqueous sodium bicarbonate solution (1 mL) and 10% sodium thiosulfate solution (1 mL), and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=6/1) to give 2,6-dimethoxy-4-methyl-pyridin-3-yl methoxyphenyl ketone (0.043 g). To a solution of the obtained 2,6-dimethoxy-4-methylpyridin-3-yl methoxyphenyl ketone (0.042 g) in dichloromethane (1.5 mL) was added boron trichloride (1 mol/L solution in dichloromethane, 0.44 mL) at 0° C. The temperature was raised to room temperature, and the reaction solution was stirred for 30 hours. To the reaction mixture was added saturated sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=1/2) to give 2-hydroxy-6-methoxy-4-methylpyridin-3-yl 4-methoxyphenylketone (0.023 g). To a solution of the obtained 2-hydroxy-6-methoxy-4-methyl-pyridin-3-yl 4-methoxyphenyl ketone (0.022 g) and boron tri fluoride diethyl ether complex (0.041 mL) in tetrahydrofuran (1.6 mL) was added sodium cyanoborohydride (0.011 g), and the mixture was stirred for 2 hours at 65° C. The reaction mixture was cooled to room temperature and extracted with diethyl ether. After the organic layer was washed with saturated aqueous sodium bicarbonate solution and dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=1/2) to give 6-methoxy-3-(4-methoxybenzyl)-4-methyl-1H-pyridin-2-one (0.008 g).

reactant | 3-cyano-2,6-dimethoxy-4-methylpyridine | 0.11 g | C(#N)C=1C(=NC(=CC1C)OC)OC | C9H10N2O2
reactant | diisobutylaluminum hydride | 1.5 mol/L, 0.53 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-formyl-2,6-dimethoxy-4-methylpyridine | 0.034 g | C(=O)C=1C(=NC(=CC1C)OC)OC | C9H11NO3
